US07968746B2
Following the amide coupling procedure described in protocol A, 507 mg 6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxylic acid (2.03 mmol), 356 mg CDI (2.20 mmol) and 196 mg 4-aminobutanol (2.20 mmol) produced 488 mg of 6-hydroxy-N-(4-hydroxybutyl)-2,5,7,8-tetramethylchroman-2-carboxamide as a white powder.

reactant | 6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxylic acid | 2.03 mmol, 507 mg | OC=1C(=C2CCC(OC2=C(C1C)C)(C(=O)O)C)C | C14H18O4
reactant | CDI | 2.20 mmol, 356 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 4-aminobutanol | 2.20 mmol, 196 mg | NCCCCO | C4H11NO
product | 6-hydroxy-N-(4-hydroxybutyl)-2,5,7,8-tetramethylchroman-2-carboxamide | 488 mg | OC=1C(=C2CCC(OC2=C(C1C)C)(C(=O)NCCCCO)C)C | C18H27NO4
